US05162523
1-Ethyl-6-fluoro-1,4-dihydro-7-(hexahydro-1H-1,4-diazepin-1-yl) -4-oxo-3-quinolinecarboxylic acid (Homonorfloxacin)
A mixture of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid [J. Med Chem.. 23. 1358 (1980)] (2.7 g, 10 mmol) and homopiperazine, (5.0 g, 50 mmol) was heated at 140° C. for 51/2 hours. The excess homopiperazine was removed by distillation at 85°-95° C./10 mm Hg. The residue was triturated with water and filtered. The solid collected was dissolved in glacial acetic acid (1.5 mL), water (10 mL) was added, and the pH was adjusted to 8.0 with solid sodium bicarbonate. The resulting precipitate was collected by filtration, washed with water (3×5 mL) and air dried to give the product as a white crystalline solid (1.34 g, 40% yield): mp 196°-198° C.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 10 mmol, 2.7 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
reactant | homopiperazine | 50 mmol, 5.0 g | N1CCNCCC1 | C5H12N2
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-(hexahydro-1H-1,4-diazepin-1-yl) -4-oxo-3-quinolinecarboxylic acid | 1.34 g, 40% yield | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCCC1)F)=O)C(=O)O | C17H20FN3O3
